US04849420
5,6,8,9,14,14a-Hexhydroisoquino[1,2-b][3]benzazepine-3,11,12-triol (XIVb)
The title compound was prepared as described in Example 22 by the treatment of 5,6,8,9,15,15a-hexahydro-3-methoxy-[1,3]dioxolo[4,5-h]isoquino[1,2-b][3]benzazepine (XIIIb, Ex. 19) (0.9 g, 2.8 mmole) with boron tribromide. The reaction time was shortened to 4 hours. Evaporation of ethyl acetate extracts on a rotary evaporator afforded a solid residue which was dissolved in hot ethanol solution with ethanolic hydrogen chloride solution. When the mixture was warmed on a steam bath with an additional amount of ethanol (15 ml), a crystalline product was separated. The mixture was chilled in a refrigerator, and the precipitate was collected on a filter and washed with ethanol to give the titled product (0.9 g, 97%). An analytical sample was obtained by dissolving the product in a mixture of ethanol and a small amount of water, and precipitation by an addition of a large amount of anhydrous ether. The product started to char at 282° and decomposed completely at 286°. Mass spec (CI) m/z 298 (M+1) and 247.

reactant | 5,6,8,9,15,15a-hexahydro-3-methoxy-[1,3]dioxolo[4,5-h]isoquino[1,2-b][3]benzazepine | 2.8 mmole, 0.9 g | COC1=CC=2CCN3C(CC4=C(CC3)C=C3C(=C4)OCO3)C2C=C1 | C20H21NO3
reactant | boron tribromide | B(Br)(Br)Br | BBr3
solvent | ethanol | C(C)O | C2H6O
solvent | hydrogen chloride | Cl | ClH
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | 5,6,8,9,14,14a-Hexhydroisoquino[1,2-b][3]benzazepine-3,11,12-triol | 0.9 g, 97% | C1=CC(=CC=2CCN3C(CC4=C(CC3)C=C(C(=C4)O)O)C12)O | C18H19NO3
